US06252084B1
By the method in Example 75, Part F, 280 mg (0.75 mmol) of 1-[(3-chlorophenyl)methyl]-2-ethyl-4-methoxy-alpha-hydroxy-1H-indole-3-acetamide was reduced with 0.12 mL (0.75 mmol) of triethylsilane in 2 mL of trifluoroacetic acid to give by chromatography on silica gel (eluted ethyl acetate) 125 mg (48% yield) of 1-[(3-chlorophenyl)methyl]-2-ethyl-4-methoxy-1H-indole-3-acetamide.

reactant | 1-[(3-chlorophenyl)methyl]-2-ethyl-4-methoxy-alpha-hydroxy-1H-indole-3-acetamide | 0.75 mmol, 280 mg | ClC=1C=C(C=CC1)CN1C(=C(C2=C(C=CC=C12)OC)C(C(=O)N)O)CC | C20H21ClN2O3
reactant | triethylsilane | 0.75 mmol, 0.12 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[(3-chlorophenyl)methyl]-2-ethyl-4-methoxy-1H-indole-3-acetamide | ClC=1C=C(C=CC1)CN1C(=C(C2=C(C=CC=C12)OC)CC(=O)N)CC | C20H21ClN2O2
